US06140351
To a solution of N-(5-chloropyridin-2-yl)-2-[((4-((methylamino)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide (0.70 g, 1.4 mmol) in THF (10 mL) at 0° C. was added 2-bromoethylisocyanate (0.63 mL, 4.2 mmol) and the mixture stirred at ambient temperature. After 30 minutes, the mixture was cooled, concentrated in vacuo and the residue dissolved in DMF (4 mL). Pyrrolidine (0.50 g, 7.0 mmol) was added. The reaction was stirred for 1 hour and poured into water and ethyl acetate. The ethyl acetate layer was dried over MgSO4 and concentrated in vacuo. Purification by flash chromatography on silica gel afforded 0.050 g of N-(5-chloropyridin-2-yl)-2-[((4-((N'-methyl-N'-(2-(pyrrolidin-1-yl)ethyl)ureido)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide; NMR (DMSO-d6 /TFA) 10.9 (s, 1), 9.6 (m,1), 9.4 (s, 1), 8.3 (d, 1), 8.1 (d, 1), 7.9 (dd, 1), 7.5 (s, 1), 7.4 (s, 1), 7.3 (s, 1), 4.4 (s, 2), 3.9 (s, 3), 3.6 (m, 2), 3.4 (m, 2), 3.2 (m, 2), 3.0 (m, 2), 2.9 (s, 3), 2 (m, 2), 1.8 (m, 2) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-[((4-((methylamino)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 1.4 mmol, 0.70 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CNC)=O | C20H17Cl3N4O3S
reactant | 2-bromoethylisocyanate | 4.2 mmol, 0.63 mL | BrCCN=C=O | C3H4BrNO
reactant | Pyrrolidine | 7.0 mmol, 0.50 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-chloropyridin-2-yl)-2-[((4-((N'-methyl-N'-(2-(pyrrolidin-1-yl)ethyl)ureido)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-methoxy-5-chlorobenzamide | 0.050 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OC)NC(=O)C=1SC=C(C1Cl)CNC(=O)N(CCN1CCCC1)C)=O | C27H29Cl3N6O4S
